US06992087B2
Preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting (1R,2S)-1-[(5-bromo-3,6-dimethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.51, 7.36-7.28, 5.66, 4.98, 4.82, 3.25, 3.11, 2.75, 2.42, 2.26; HRMS (FAB) calcd for C21H19Cl2N3O+H 400.0983, found 400.0995.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | (1R,2S)-1-[(5-bromo-3,6-dimethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C15H16BrN3O
product | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C21H19Cl2N3O
